US08541596B2
N,N-Bis((2-methylquinolin-6-yl)methyl)-1H-benzo[d]imidazol-5-amine
The compound was synthesized starting from benzimidazol-5-amine (133 mg; 1 mmol; 1 eq.), (2-methylquinolin-6-yl)methylbromide (519 mg; 2.2 mmol; 2.2 eq.) and K2CO3 (304 mg; 2.2 mmol; 2.2 eq.) according to method 5; Yield: 0.067 g (15.1%); MS m/z: 444.5 [M+H]+, 222.8 [M+2H]2+; 1H-NMR (500 MHz, DMSO d6): δ 2.60 (s, 6H); 4.92 (s, 4H); 6.77-6.82 (m, 2H); 7.33-7.35 (m, 3H); 7.67 (dd, 2H, 4J=2.1 Hz, 3J=8.5 Hz); 7.77 (br s, 2H); 7.85-7.87 (m, 3H); 8.14 (d, 2H, 3J=8.5 Hz); 11.81 (br s, 1H); HPLC (METHOD [A]): doublepeak rt 6.61 min (61.2%), 6.84 min (38.8%)

reactant | benzimidazol-5-amine | 1 mmol, 133 mg, 1 eq. | N1=CNC2=C1C=CC(=C2)N | C7H7N3
reactant | (2-methylquinolin-6-yl)methylbromide | 2.2 mmol, 519 mg, 2.2 eq. | CC1=NC2=CC=C(C=C2C=C1)CBr | C11H10BrN
reactant | K2CO3 | 2.2 mmol, 304 mg, 2.2 eq. | C(=O)([O-])[O-].[K+].[K+]
product | N,N-Bis((2-methylquinolin-6-yl)methyl)-1H-benzo[d]imidazol-5-amine | CC1=NC2=CC=C(C=C2C=C1)CN(C1=CC2=C(NC=N2)C=C1)CC=1C=C2C=CC(=NC2=CC1)C | C29H25N5
